US08389734B2
A mixture of methyl 4-tert-butyl-2-(6-(trifluoromethyl)pyridin-2-yloxy)benzoate (0.49 g, 1.4 mmol) and lithium hydroxide hydrate (0.12 g, 2.8 mmol) in THF (5 mL) and water (5 mL) was stirred at room temperature for two days. The reaction was made acidic with 1 M HCl(aq) and extracted with ethyl acetate. The combined extracts were washed with water, dried over sodium sulfate, and evaporated to give 4-tert-butyl-2-(6-(trifluoromethyl)pyridin-2-yloxy)benzoic acid (0.45 g, 95% yield). LC/MS: m/z 340.5 (M+H)+ at 1.89 min (10%-99% CH3CN (0.035% TFA)/H2O (0.05% TFA)). 1H NMR (400 MHz, CDCl3) δ 8.00 (d, J=8.3 Hz, 1H), 7.85-7.81 (m, 1H), 7.36-7.33 (m, 2H), 7.26-7.24 (m, 1H), 7.09 (d, J=8.4 Hz, 1H) and 1.34 (s, 9H) ppm.

reactant | methyl 4-tert-butyl-2-(6-(trifluoromethyl)pyridin-2-yloxy)benzoate | 1.4 mmol, 0.49 g | C(C)(C)(C)C1=CC(=C(C(=O)OC)C=C1)OC1=NC(=CC=C1)C(F)(F)F | C18H18F3NO3
reactant | lithium hydroxide hydrate | 2.8 mmol, 0.12 g | O.[OH-].[Li+]
reactant | HCl | 1 M | Cl | ClH
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | water | 5 mL | O | H2O
product | 4-tert-butyl-2-(6-(trifluoromethyl)pyridin-2-yloxy)benzoic acid | 0.45 g, 95% yield | C(C)(C)(C)C1=CC(=C(C(=O)O)C=C1)OC1=NC(=CC=C1)C(F)(F)F | C17H16F3NO3
